US04058550
A solution of 7.2 g. of 4-n-hexadecylaminobenzoic acid, 15.2 g. of 1,2-dihydroxypropane, and 3.9 ml. of boron trifluoride etherate are stirred together, under nitrogen, at 115° C. for 19 hours. The solution is cooled, diluted with methylene chloride, and placed in a freezer overnight. The solid is collected, washed with hexane, and oven-dried to yield a white solid. The solid is recrystallized from hexane and chromatographed on alumina with chloroform. This process yields 2-hydroxypropyl 4-(n-hexadecylamino)benzoate as a white solid, m.p. 91°-93° C.

reactant | 4-n-hexadecylaminobenzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | 1,2-dihydroxypropane | OCC(C)O | C3H8O2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-hydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(C)O)C=C1 | C26H45NO3
